US07662811B2
Step 2: Preparation of N-[4-(3-Hydroxy-propyl)-phenyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide:
To a 20 mL vial was added [3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetic acid (500 mg, 1.61 mmol), EDC (Aldrich, 464 mg, 2.42 mmol), HOBt (Aldrich, 195 mg, 1.45 mmol), CH2Cl2 (5 mL), 3-(4-amino-phenyl)-propan-1-ol (731 mg, 4.84 mmol) and (iPr)2NEt (Aldrich, 0.56 mL, 3.22 mmol). The reaction mixture was stirred at room temperature overnight and diluted with CH2Cl2 (60 mL). The organic phase was washed with saturated NaHCO3, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by silica gel chomatography (6%-8% MeOH—CH2Cl2) to afford the title compound. MS (ESI): 444 (M+H)+.

reactant | [3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetic acid | 1.61 mmol, 500 mg | O=C1C(N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C13H14N2O5S
reactant | EDC | 2.42 mmol, 464 mg
reactant | HOBt | 1.45 mmol, 195 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-(4-amino-phenyl)-propan-1-ol | 4.84 mmol, 731 mg | NC1=CC=C(C=C1)CCCO | C9H13NO
reactant | (iPr)2NEt | 3.22 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-Hydroxy-propyl)-phenyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide | OCCCC1=CC=C(C=C1)NC(CC1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C22H25N3O5S
